US08703796B2
(154a) 6-Amino-5-nitro-nicotinic acid
6-Chloro-5-nitro-nicotinic acid (3.00 g, 14.8 mmol) in 100 mL conc. ammonia was stirred for 16 h. The mixture was concentrated, the residue mixed with 50 mL water, acidified with hydrochloric acid and stirred for 10 min. The precipitate was filtered off and washed with water. The solid was dried and taken up in refluxing THF. The mixture was filtered and concentrated. The residue was reacted without further purification.

reactant | 6-Chloro-5-nitro-nicotinic acid | 14.8 mmol, 3.00 g | ClC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H3ClN2O4
reactant | ammonia | 100 mL | N | H3N
product | 6-Amino-5-nitro-nicotinic acid | NC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H5N3O4
